US05135955
4-Hydroxybenzaldehyde (61 g) and 2-ethylhexylbromide (106 g) were added to 150 ml of dimethylformamide containing 138 g of potassium carbonate. The mixture was refluxed overnight and then poured into a volume of cold water and extracted with ethyl acetate. The extract was dried, evaporated and distilled (0.1 millimeter vacuum) to yield 4-[(2-ethylhexyl)oxy]benzaldehyde, boiling point (b.p.) 118°-121° C.

reactant | 4-Hydroxybenzaldehyde | 61 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-ethylhexylbromide | 106 g | C(C)C(CBr)CCCC | C8H17Br
reactant | dimethylformamide | 150 ml, 138 g | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-[(2-ethylhexyl)oxy]benzaldehyde | C(C)C(COC1=CC=C(C=O)C=C1)CCCC | C15H22O2
